US08119663B2
Ethyl 5-[4-(trifluoromethoxy)phenyl]piperidine-3-carboxylate [racemic cis/trans isomer mixture]
2.5 g (7.6 mmol) of ethyl 5-[4-(trifluoromethoxy)phenyl]pyridine-3-carboxylate were dissolved in 60 ml of ethanol, 1.14 g of Pd/C (10%) were added and the mixture was hydrogenated in an autoclave at 60° C. at a hydrogen pressure of 50 bar overnight. The reaction mixture was filtered through silica gel. The resulting solution was concentrated under reduced pressure. Water was added to the residue, and the solution was adjusted to pH 8 using aqueous 1 N sodium hydroxide solution. The mixture was then extracted with dichloromethane. The organic phase was dried over sodium sulphate and concentrated. Yield: 1.76 g (66% of theory)

reactant | ethyl 5-[4-(trifluoromethoxy)phenyl]pyridine-3-carboxylate | 7.6 mmol, 2.5 g | FC(OC1=CC=C(C=C1)C=1C=C(C=NC1)C(=O)OCC)(F)F | C15H12F3NO3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | Pd/C | 1.14 g | [Pd] | Pd
product | Ethyl 5-[4-(trifluoromethoxy)phenyl]piperidine-3-carboxylate | FC(OC1=CC=C(C=C1)C1CC(CNC1)C(=O)OCC)(F)F | C15H18F3NO3
